US05166204
In 8 ml of pyridine was dissolved 200 mg of N-(2-dimethylaminoethyl)-6-hydroxycarbazole-3,4-dicarboximide. There was added 460 mg of 1-piperidylcarbonyl chloride. The mixture was stirred at room temperature overnight. The solvent was removed by distillation under reduced pressure. The residue was mixed with 10 ml of isopropyl alcohol. The mixture was stirred at room temperature for 10 minutes. The resulting crystals were collected by filtration and dried to obtain 180 mg (yield: 62%) of N-(2-dimethylaminoethyl-6-(1-piperidyl-carbonyloxy)carbazole-3,4-dicarboximide hydrochloride as yellow crystals.

reactant | N-(2-dimethylaminoethyl)-6-hydroxycarbazole-3,4-dicarboximide | 200 mg | CN(CCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)O)C | C18H17N3O3
reactant | 1-piperidylcarbonyl chloride | 460 mg | N1(CCCCC1)C(=O)Cl | C6H10ClNO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 2-dimethylaminoethyl-6-(1-piperidyl-carbonyloxy)carbazole-3,4-dicarboximide hydrochloride | yield: 62% | Cl.CN(CCC1=CC2=C(C=3C4=CC(=CC=C4NC13)OC(=O)N1CCCCC1)C(NC2=O)=O)C | InChI=1S/C24H26N4O4.ClH/c1-27(2)11-8-14-12-17-20(23(30)26-22(17)29)19-16-13-15(6-7-18(16)25-21(14)19)32-24(31)28-9-4-3-5-10-28;/h6-7,12-13,25H,3-5,8-11H2,1-2H3,(H,26,29,30);1H
